US05770598
4-Methyldibenzofuran-3-carboxaldehyde
3-Bromo4-methyldibenzofuran (26.11 g, 0.1 mol) suspended in dry ether (700 ml) was cooled to 0° C. and n-butyl lithium (1.6M in hexane, 62.5 ml, 0.1 mol) was added and the reaction stirred for 5 mins. DMF (5 ml) in ether (12 ml) was added and the reaction heated to reflux for 1 hour. The mixture was poured onto a mixture of conc. HCl (25 ml) and ice (1 l). The organic phase was separated and the aqueous extreacted with ether. The combined organic phases were dried (MgSO4) and evaporated in vacuo. The resulting solid was crystallised from IMS to give off-white needles which were dried at 60° C. under vacuum (4.68 g, 22%). Further product could be obtained from the mother liquor. (Found: C, 78.97; H, 4.56. C14H10O2 0.15H2O requires: C, 78.97; H, 4.88%); δH [2H6 ]-DMSO 10.4 (1H, s, CHO), (8.2 (1H, d), 8.15 (1H, d), 7.9 (1H, d), 7.8 (1H, d), 7.65 (1H, t), 7.45 (1H, t), 2.85 (3H, s); m/z 210 (M+); νmax (KBr disc)/cm-1 1686.

reactant | 3-Bromo4-methyldibenzofuran | 0.1 mol, 26.11 g | BrC=1C=CC2=C(OC3=C2C=CC=C3)C1C | C13H9BrO
reactant | n-butyl lithium | 0.1 mol, 1.6M, 62.5 ml | C(CCC)[Li]
reactant | HCl | 25 ml | Cl | ClH
reactant | KBr | [K+].[Br-]
reactant | ether | 700 ml | CCOCC | C4H10O
reactant | ether | 12 ml | CCOCC | C4H10O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-Methyldibenzofuran-3-carboxaldehyde | CC1=C(C=CC2=C1OC1=C2C=CC=C1)C=O | C14H10O2
